US06987194B2
Step C Synthesis of 4-[4-(2,2-dimethyl(2,3-dihydrobenzo[2,3-b]furan-7-yloxy))butoxy]-3,5-dichlorophenol as an Intermediate
A mixture of 0.67 gram (0.0014 mole) of, 2-[4-(2,2-dimethyl(2,3-dihydrobenzo[2,3-b]furan-7-yloxy))butoxy]-1,3-dichloro-5-(phenylmethoxy)benzene and 0.01 gram (catalyst) of 10% palladium on carbon in 75 mL of methanol was subjected to hydrogenation conditions using a Parr Hydrogenator, yielding 0.55 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 2-[4-(2,2-dimethyl(2,3-dihydrobenzo[2,3-b]furan-7-yloxy))butoxy]-1,3-dichloro-5-(phenylmethoxy)benzene | CC1(CC2=C(O1)C(=CC=C2)OCCCCOC2=C(C=C(C=C2Cl)OCC2=CC=CC=C2)Cl)C | C27H28Cl2O4
catalyst | palladium on carbon | 0.01 gram | [Pd] | Pd
solvent | methanol | 75 mL | CO | CH4O
product | 4-[4-(2,2-dimethyl(2,3-dihydrobenzo[2,3-b]furan-7-yloxy))butoxy]-3,5-dichlorophenol | 0.55 gram | CC1(CC2=C(O1)C(=CC=C2)OCCCCOC2=C(C=C(C=C2Cl)O)Cl)C | C20H22Cl2O4
